US07067537B2
Production of 2-fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzamide
2-Fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzoic acid (205 mg) was dissolved in THF (5 ml) and thionyl chloride (0.06 ml) and DMF (0.01 ml) were added. The mixture was heated under reflux for 2 hrs. The reaction mixture was concentrated under reduced pressure and re-dissolved in THF (5 ml). 28% Aqueous ammonia (3 ml) cooled to 5° C. was gradually added. The reaction mixture was stirred at room temperature for 30 min. and extracted with ethyl acetate. The organic layer was dried and concentrated. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=9:1→ethyl acetate) for purification and recrystallized from ethyl acetate-diisopropyl ether to give the title compound (130 mg) as colorless powder crystals.

reactant | 2-Fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzoic acid | 205 mg | FC1=C(C(=O)O)C=C(C=C1)C=1N=C(SC1)C=1C=NC=CC1C(F)(F)F | C16H8F4N2O2S
reactant | thionyl chloride | 0.06 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.01 ml | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzamide | 130 mg | FC1=C(C(=O)N)C=C(C=C1)C=1N=C(SC1)C=1C=NC=CC1C(F)(F)F | C16H9F4N3OS
